US07129225B2
3-hydroxymethylbenzylamine
This compound was prepared by reduction of 3-cyanobenzaldehyde according to the procedure described in preparation of 3,5-dibenzyloxybenzylamine. Yield was 66%: 1H NMR (Acetone-d6, 500 MHz) δ7.32 (s, 1H), 7.23 (dd, 1H, J=7.6 and 7.0), 7.19, complex, 2H), 4.59 (s, 2H), 4.40 (s, 2H), 4.10 (br, 1H), 1.96 (br, 1H), 1.88 (br, 1H).

reactant | 3-cyanobenzaldehyde | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 3,5-dibenzyloxybenzylamine | C(C1=CC=CC=C1)OC=1C=C(CN)C=C(C1)OCC1=CC=CC=C1 | C21H21NO2
product | 3-hydroxymethylbenzylamine | Yield was 66% | OCC=1C=C(CN)C=CC1 | C8H11NO
